US08314091B2
D: N-tert-Butyl-3-((4-(4-(3-(cyclopropylmethyl)ureido)-3-fluorobenzoyl)-2-(fluoromethyl)piperazin-1-yl) methyl)benzamide
To a solution of 3-((4-(4-amino-3-fluorobenzoyl)-2-(fluoromethyl)piperazin-1-yl)-methyl)-N-tert-butylbenzamide (150 mg, 0.34 mmol) in dichloromethane (4 mL) at room temperature was added 4-nitrophenyl chloroformate (71.4 mg, 0.354 mmol). The reaction mixture was stirred at room temperature for 1 hour before the addition of cyclopropane-methylamine (150 μL). The mixture was stirred at room temperature overnight before being applied to a silica carbonate column. The eluant was concentrated under reduced pressure and redissolved in methanol. Purification by basic reverse phase HPLC gave the title compound (2 mg), MS (ESI) m/z 542.5 [M+H]+

reactant | 3-((4-(4-amino-3-fluorobenzoyl)-2-(fluoromethyl)piperazin-1-yl)-methyl)-N-tert-butylbenzamide | 0.34 mmol, 150 mg | NC1=C(C=C(C(=O)N2CC(N(CC2)CC=2C=C(C(=O)NC(C)(C)C)C=CC2)CF)C=C1)F | C24H30F2N4O2
reactant | 4-nitrophenyl chloroformate | 0.354 mmol, 71.4 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | cyclopropane-methylamine | 150 μL | C1(CC1)CN | C4H9N
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | N-tert-Butyl-3-((4-(4-(3-(cyclopropylmethyl)ureido)-3-fluorobenzoyl)-2-(fluoromethyl)piperazin-1-yl) methyl)benzamide | 2 mg | C(C)(C)(C)NC(C1=CC(=CC=C1)CN1C(CN(CC1)C(C1=CC(=C(C=C1)NC(=O)NCC1CC1)F)=O)CF)=O | C29H37F2N5O3
